US08017775B2
6-(2-Methoxy-5-phenylacetylphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl -1,2-dihydroquinoline (Compound No. 22)
6-(2-methoxyphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 13-3, 49.7 mg, 0.12 mmol) were added thereto and the reaction mixture was stirred at room temperature for 1.5 hours. Ethyl acetate (100 mL) was added to the reaction mixture, and the whole was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (53.6 mg) as a pale yellow amorphous product. (Yield 82%)

reactant | 6-(2-methoxyphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | COC1=C(C=CC=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(C1=CC=C(C=C1)C)=O | C28H29NO3
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-Methoxy-5-phenylacetylphenyl)-5-(4-methylbenzoyloxymethyl)-2,2,4-trimethyl -1,2-dihydroquinoline | 53.6 mg, Yield 82% | COC1=C(C=C(C=C1)C(CC1=CC=CC=C1)=O)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(C1=CC=C(C=C1)C)=O | C36H35NO4
